US06743794B2
2-Amino-N-[3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)cyclohexyl]-2-phenylacetamide
{[3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexylcarbamoyl]-phenyl-methyl}-carbamic acid tert-butyl ester (1.24 g; 2.2 mmol) was dissolved in excess, neat acetic acid saturated with HCl(g) (20 mL). After stirring 30 min at room temperature, the solution was concentrated to dryness by rotary evaporation. Acetic acid was removed from the resulting solid by consecutive dissolution in, and drying from, acetonitrile (thrice) and then diethyl ether (once). The solid was dissolved in 25% (v/v) isopropyl alcohol in chloroform, washed with saturated NaHCO3(aq), and dried by rotary evaporation to yield the desired product in 97% isolated yield.

reactant | {[3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexylcarbamoyl]-phenyl-methyl}-carbamic acid tert-butyl ester | 2.2 mmol, 1.24 g | C(C)(C)(C)OC(NC(C1=CC=CC=C1)C(NC1CC(CCC1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)=O)=O | C30H33ClN4O5
reactant | HCl | 20 mL | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Amino-N-[3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)cyclohexyl]-2-phenylacetamide | NC(C(=O)NC1CC(CCC1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)C2=CC=CC=C2 | C25H25ClN4O3
